US06162815
(b) Synthesis of methyl 4-(3-isopropyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyloxy)benzoate
In a manner similar to Example 1(a) above, by the reaction of 2 g (8.1 mmol) of 3-isopropyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthol with 1.45 g (6.7 mmol) of methyl 4-bromo-benzoate, 840 mg (33%) of the expected methyl ester of melting point 115-6° C. were obtained.

reactant | 3-isopropyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthol | 8.1 mmol, 2 g | C(C)(C)C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)O | C17H26O
reactant | methyl 4-bromo-benzoate | 6.7 mmol, 1.45 g | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
product | methyl 4-(3-isopropyl-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthyloxy)benzoate | C(C)(C)C=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)OC1=CC=C(C(=O)OC)C=C1 | C25H32O3
